US07902367B2
Methyl 3-[3-[3-[2-(4-chlorophenyl)-4-methylthiazol-5-yl]ureido]piperidin-1-yl]benzoate
1-[3-(Methoxycarbonyl)phenyl]nipecotic acid (54.0 mg, 0.205 mmol) was suspended in benzene (4 mL). To this suspension, diphenylphosphoryl azide (0.0487 mL, 0.226 mmol) and triethylamine (0.0316 mL, 0.226 mmol) were added and the mixture was stirred for 2 hours while being refluxed. Subsequently, 5-amino-2-(4-chlorophenyl)-4-methylthiazole (46.0 mg, 0.205 mmol) and triethylamine (0.0316 mL, 0.226 mmol) were added and the mixture was further stirred for 6 hours while refluxed. Water was then added and the mixture was extracted with ethyl acetate. The extract was washed sequentially with 0.1 mol/L hydrochloric acid, a saturated aqueous sodium bicarbonate solution and brine. The washed product was dried over magnesium sulfate and the solvent was evaporated. Purification of the resulting residue by silica gel column chromatography (hexane:ethyl acetate=4:1->1:4) gave 43.5 mg (44%) of the desired compound as a yellow powder.

reactant | 1-[3-(Methoxycarbonyl)phenyl]nipecotic acid | 0.205 mmol, 54.0 mg | COC(=O)C=1C=C(C=CC1)N1CC(C(=O)O)CCC1 | C14H17NO4
reactant | diphenylphosphoryl azide | 0.226 mmol, 0.0487 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 0.226 mmol, 0.0316 mL | C(C)N(CC)CC | C6H15N
reactant | 5-amino-2-(4-chlorophenyl)-4-methylthiazole | 0.205 mmol, 46.0 mg | NC1=C(N=C(S1)C1=CC=C(C=C1)Cl)C | C10H9ClN2S
reactant | triethylamine | 0.226 mmol, 0.0316 mL | C(C)N(CC)CC | C6H15N
solvent | benzene | 4 mL | C1=CC=CC=C1 | C6H6
solvent | Water | O | H2O
product | Methyl 3-[3-[3-[2-(4-chlorophenyl)-4-methylthiazol-5-yl]ureido]piperidin-1-yl]benzoate | 43.5 mg, 44% | ClC1=CC=C(C=C1)C=1SC(=C(N1)C)NC(NC1CN(CCC1)C=1C=C(C(=O)OC)C=CC1)=O | C24H25ClN4O3S
